US04514416
In 60 ml of anhydrous ethyl ether, was suspended 6.2 g of 4-acetyloxy-2-methylbenzoic acid. To the suspension, was added 8.0 g of phosphorus pentachloride. The suspension was stirred for 3 hours at room temperature. The reaction mixture was freed from the solvent by distillation under reduced pressure, admixed again with ethyl ether, and freed from the solvent by distillation to obtain 4-acetyloxy-2-methylbenzoyl chloride.

reactant | 4-acetyloxy-2-methylbenzoic acid | 6.2 g | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1)C | C10H10O4
reactant | phosphorus pentachloride | 8.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | ethyl ether | 60 ml | C(C)OCC | C4H10O
product | 4-acetyloxy-2-methylbenzoyl chloride | C(C)(=O)OC1=CC(=C(C(=O)Cl)C=C1)C | C10H9ClO3
